US03968138
N3 -sec-butyl-2,4-dinitro-6-methyl-1,3-phenylenediamine
This compound was prepared in a similar manner by reaction of N-sec-butyl-3-chloro-2,6-dinitro-4-methylaniline with ammonia. The crystalline product melts at 151.5°-152.5°C.

reactant | N-sec-butyl-3-chloro-2,6-dinitro-4-methylaniline | C(C)(CC)NC1=C(C(=C(C=C1[N+](=O)[O-])C)Cl)[N+](=O)[O-] | C11H14ClN3O4
reactant | ammonia | N | H3N
product | sec-butyl-2,4-dinitro-6-methyl-1,3-phenylenediamine | C(C)(CC)NC=1C(=C(C(=CC1[N+](=O)[O-])C)N)[N+](=O)[O-] | C11H16N4O4
